### PR TITLE
Refactor and improve CommRingSolver

### PR DESCRIPTION
**Pull request by felixwellen**
The reflection code of the CommRingSolver is pretty horrible, this PRs intends to improve the situation and make it more flexible.

### CODE REVIEW

File: Cubical/Algebra/CommRing/Ideal/Base.agda [hunk 1]
```diff
@@ -82,9 +82,9 @@ module CommIdeal (R' : CommRing ℓ) where
 
  -Closed : (I : CommIdeal) (x : R)
          → x ∈ I → (- x) ∈ I
- -Closed I x x∈I = subst (_∈ I) (useSolver x) (·Closed (snd I) (- 1r) x∈I)
-   where useSolver : (x : R) → - 1r · x ≡ - x
-         useSolver = solve R'
+ -Closed I x x∈I = subst (_∈ I) useSolver (·Closed (snd I) (- 1r) x∈I)
```
Comment (mzeuner) [inline Cubical/Algebra/CommRing/Ideal/Base.agda:85]: I would have expected that you can just write `solve! R'` in place here, is there a reason why this is not possible?

File: Cubical/Algebra/CommRing/Localisation/Base.agda [hunk 2]
```diff
@@ -79,21 +79,13 @@ module Loc (R' : CommRing ℓ) (S' : ℙ (fst R')) (SMultClosedSubset : isMultCl
...
-  eq1 = solve R'
-
-  eq2 : (r s r' s' r'' s'' u v : R) → u · r' · s · v · s'' ≡ u · s · (v · r' · s'')
-  eq2 = solve R'
-
-  eq3 : (r s r' s' r'' s'' u v : R) → u · s · (v · r'' · s') ≡ u · v · s' · r'' · s
-  eq3 = solve R'
 
   path : u · v · s' · r · s'' ≡ u · v · s' · r'' · s
-  path = u · v · s' · r · s''   ≡⟨ eq1 r s r' s' r'' s'' u v ⟩ -- not just ≡⟨ solve R' ⟩
```
Comment (mzeuner) [inline Cubical/Algebra/CommRing/Localisation/Base.agda:92]: This is awesome :)

File: Cubical/Algebra/CommRing/Localisation/InvertingElements.agda [hunk 3]
```diff
@@ -160,29 +160,21 @@ module InvertingElementsBase (R' : CommRing ℓ) where
       p : x' ≡ x
       p = eq/ _ _ ((1r , ∣ 0 , refl ∣₁) , path)
        where
-       useSolver1 : ∀ a b c → 1r · (a · b) · c ≡ a · (b · c)
-       useSolver1 = solve R'
-       useSolver2 : ∀ a b → a · b ≡ 1r · a · b
-       useSolver2 = solve R'
        path : 1r · (r · f ^ (l ∸ n)) · f ^ n ≡ 1r · r · f ^ l
-       path = 1r · (r · f ^ (l ∸ n)) · f ^ n ≡⟨ useSolver1 _ _ _ ⟩
+       path = 1r · (r · f ^ (l ∸ n)) · f ^ n ≡⟨ solve! R' ⟩
```
Comment (mzeuner) [inline Cubical/Algebra/CommRing/Localisation/InvertingElements.agda:164]: So the solver can parse `f ^ n` as a single variable so to speak? This is great!

File: Cubical/Algebra/CommRing/Localisation/InvertingElements.agda [hunk 4]
```diff
@@ -87,7 +87,7 @@ module InvertingElementsBase (R' : CommRing ℓ) where
                                λ _ → eq/ _ _ ((0r , ∣ 1 , sym (·IdR 0r) ∣₁) , useSolver _ _)
   where
   useSolver : ∀ s r → 0r · 1r · s ≡ 0r · r · 0r
-  useSolver = solve R'
```
Comment (mzeuner) [inline Cubical/Algebra/CommRing/Localisation/InvertingElements.agda:90]: Would have expected this to be inlineable as well.

File: Cubical/Algebra/CommRing/BinomialThm.agda [hunk 5]
```diff
@@ -70,7 +70,7 @@ module BinomialThm (R' : CommRing ℓ) where
      ∑ xVec + ∑ yVec
   ≡⟨ cong (_+ ∑ yVec) (∑Last xVec) ⟩
      ∑ (xVec ∘ weakenFin) + xⁿ⁺¹ + (yⁿ⁺¹ + ∑ (yVec ∘ suc))
-  ≡⟨ solve3 _ _ _ _ ⟩
+  ≡⟨  solve3 _ _ _ _ ⟩
```
Comment (mzeuner) [inline Cubical/Algebra/CommRing/BinomialThm.agda:73]: so using `solve! R'` in place here is not possible? Is that because the ring solver can't parse `∑ (xVec ∘ weakenFin)` as a variable?

**Review by mzeuner — COMMENTED** [review]
This is will hopefully make our live much easier.
I can't claim to understand what is going on in the reflection code, so I can't comment on that part of the PR.
I still don't quite understand when using the solver in place is possible and when a where clause with an extra term is needed. Maybe some examples of things that  are not expected to work could be helpful.

File: Cubical/Algebra/CommRing/Ideal/Base.agda (hunk 1 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/Ideal/Base.agda:85]: It is a bit mysterious and might be a deficiency of the reflection mechanism. I turned this into issue #1097

File: Cubical/Algebra/CommRing/Localisation/Base.agda (hunk 2 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/Localisation/Base.agda:92]: :-)

File: Cubical/Algebra/CommRing/Localisation/InvertingElements.agda (hunk 3 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/Localisation/InvertingElements.agda:164]: Yes, it should be able to detect anything which is a variable applied to arguments, definition applied to some arguments or constructor applied to some arguments. If it encounters something outside scope, it will throw an error.

Comment (felixwellen) [reply Cubical/Algebra/CommRing/Localisation/InvertingElements.agda:164]: I was inspired by code in the 1lab

File: Cubical/Algebra/CommRing/BinomialThm.agda (hunk 5 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/BinomialThm.agda:73]: This one is actually a reasonable problem: Inline use is not possible, because the generated term will have expressions involving stuff like weakenFin in it and agda won't be able to figure out what the implicit arguments of those terms are.

File: Cubical/Algebra/CommRing/Localisation/InvertingElements.agda (hunk 4 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/Localisation/InvertingElements.agda:90]: This one is also mysterious - I put it in #1097

File: Cubical/Algebra/CommRing/Ideal/Base.agda (hunk 1 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/Ideal/Base.agda:85]: This is solved now, thanks to @ncfavier :-)

File: Cubical/Algebra/CommRing/Localisation/InvertingElements.agda (hunk 4 above)
Comment (felixwellen) [reply Cubical/Algebra/CommRing/Localisation/InvertingElements.agda:90]: Also solved now

**Comment by felixwellen** [comment]
Max agreed to a merge  -> merging.
